US07572809B2
Similar procedure as described in example 10 was used, starting from (8-Chloro-2,3-dihydro-1,4-dioxa-7-aza-phenanthren-6-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 2-propanol to give (8-Isopropoxy-2,3-dihydro-1,4-dioxa-7-aza-phenanthren-6-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 341(MH+).

reactant | (8-Chloro-2,3-dihydro-1,4-dioxa-7-aza-phenanthren-6-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC=1N=C(C=C2C=3OCCOC3C=CC12)NC1=NNC(=C1)C | C15H13ClN4O2
solvent | 2-propanol | CC(C)O | C3H8O
product | (8-Isopropoxy-2,3-dihydro-1,4-dioxa-7-aza-phenanthren-6-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)(C)OC=1N=C(C=C2C=3OCCOC3C=CC12)NC1=NNC(=C1)C | C18H20N4O3
